US08039450B2
19ax 5-(2-Fluoro-4-methoxycarbonylphenoxy)-1-hydroxy-2,1-benzoxaborole (D50)
To a solution of methyl 3-fluoro-4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)benzoate (5 g, 12.5 mmol) in MeOH (125 mL) was added NaBH4 (709 mg; 18.75 mmol) in portions under N2 at 0° C. in an ice-bath. The reaction was stirred at 0° C. to room temperature. The reaction was monitored with TLC and was completed overnight. The mixture was cooled to rt. Solvent was evaporated to half volume via Rota vapor. The mixture was then cooled to 0° C., and quenched by adding water (12 mL) following by adding 6 N HCl (12 mL). Stirred at rt for 30 min, white Solid precipitated out. Filtered. The solid was gummy. The solid was suspended in water, sonicated for 1 hr. Filtered, washed with more water. Filtered, dried to get target compound as a white solid (2.1 g, 56%).

reactant | methyl 3-fluoro-4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)benzoate | 12.5 mmol, 5 g | FC=1C=C(C(=O)OC)C=CC1OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C21H22BFO6
reactant | NaBH4 | 18.75 mmol, 709 mg | [BH4-].[Na+]
solvent | MeOH | 125 mL | CO | CH4O
product | 5-(2-Fluoro-4-methoxycarbonylphenoxy)-1-hydroxy-2,1-benzoxaborole | 2.1 g, 56% | FC1=C(OC=2C=CC3=C(COB3O)C2)C=CC(=C1)C(=O)OC | C15H12BFO5
